US06492086B1
Alpha-Butyrolactone Methacrylate Synthesis
To a 250 ml 3N-RB flask fitted with a gas inlet, thermometer, overhead stirrer and a 125 ml pressure equalizing dropping funnel was added 26.5 g triethylamine. The triethylamine was cooled to 5° C. using a water/ice bath. Once the triethylamine was at 5° C. the methacrylic acid was added dropwise over a 20-25 min period. The mixture exothermed˜10C. After the addition was complete the water/ice bath was removed. While the solution was stirring (20 min) the dropping funnel was removed and replaced with a clean 125 ml pressure equalizing dropping funnel. The bromolactone (41.25 g)/THF (62.5 ml) was added dropwise over a 30 min. The mixture warmed from ˜18° C. to 30° C. with a precipitate forming. The reaction was heated to 55° C. and held at 55° C. for 16 hrs using an oil bath/hot plate. After heating for 16 hrs the mixture was cooled to 20° C. using a water/ice bath. The solid (44.5 g) was removed by vacuum filtration. The filtrates were reduced under partial pressure at 33-34° C. The resulting dark amber/brown oil was diluted with 90 g of methylene chloride. This solution was slowly poured onto a plug of silica gel (180 g, Baker 40 μm flash chromatography packing) which had been pre-conditioned with methylene chloride. The crude mixture was allowed to pass into the silica gel plug by gravity. Once the crude mixture had passed the surface of the silica gel plug a fresh portion of methylene chloride was slowly poured onto the plug. The methylene chloride was pulled through the silica gel plug using reduced pressure. Once the methylene chloride had passed the surface of the silica gel plug the vacuum was removed then the next portion of methylene chloride was slowly poured onto the plug. This procedure was followed until all the product was extracted. The total filtrate was 850 ml. [The product was detected by spotting an aliquot on a TLC plate then illuminating with short UV.] To the orange filtrate was added 36 g of activated charcoal. The mixture was stirred for 1.5 hrs then filtered through a Celite plug (pre-conditioned with methylene chloride). The charcoal/Celite was washed with (2×100 ml, 1×50ml methylene chloride). The filtrate was then washed with 2×200 ml D.I. water. The layers were separated and the organic layer was dried over 100 g of sodium sulfate. The mixture was stirred for 15-30 min. The sodium sulfate was removed and washed with 2×50 ml methylene chloride. The pale yellow filtrate (1.2 L) was stripped under reduced pressure at 33-34° C. leaving 36.4 g of a pale orange oil, Yield 85.6%.

reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 26.5 g | C(C)N(CC)CC | C6H15N
product | Alpha-Butyrolactone Methacrylate | 36.4 g, Yield 85.6% | C(C(=C)C)(=O)O.C1(C(CC)O1)=O | 2C4H6O2
